US07915271B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-{[3′-(1H-pyrazol-1-yl)-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one (0.05 g, 0.084 mmol), 3-(1H-pyrazol-1-yl)phenyl boronic acid (0.031 g, 0.167 mmol), tetrakis(triphenylphosphine) palladium (5% mol) and sodium carbonate (0.019 g, 0.18 mmol) in 7 ml of water/EtOH/toluene (1:2:4) was heated to reflux for 4 h. TLC (EtOAc:hexane/1:1) showed that the reaction was over. The solvents were removed. Water (10 ml) was added. The organic was extracted with methylene chloride (3×10 ml). The combined methylene chloride layers were washed with brine, and dried over sodium sulfate. The title compound was obtained after flash column using EtOAc:hexane/1:1 as the eluant. 1H NMR (CDCl3, 500 MHz): δ 8.02 (d, J=2.5 Hz, 1H), 7.88 (s, 1H), 7.84 (s, 1H), 7.77 (s, 1H), 7.76 (s, 1H), 7.75 (s, 2H), 7.73 (m, 1H), 7.71 (m, 1H), 7.61 (t, J=7.5 Hz, 1H), 7.53 (d, J=7.5 Hz, 1H), 7.26 (m, 1H), 6.54 (t, J=2 Hz, 1H), 5.55 (d, J=7.5 Hz, 1H), 5.02 (d, J=16 Hz, 1H), 4.21 (d, J=16 Hz, 1H), 3.82 (m, 1H), 0.54 (d, J=6.5 Hz, 3H). LC-MS (M+1): 614.3.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.084 mmol, 0.05 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | 3-(1H-pyrazol-1-yl)phenyl boronic acid | 0.167 mmol, 0.031 g | N1(N=CC=C1)C=1C=C(C=CC1)B(O)O | C9H9BN2O2
reactant | sodium carbonate | 0.18 mmol, 0.019 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water EtOH toluene | 7 ml | O.CCO.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-{[3′-(1H-pyrazol-1-yl)-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)N1N=CC=C1)C)(F)F | C29H20F9N3O2
